US04085222
[2-(p-Dimethylaminophenyl)-5-methyl-1,3-dioxan-5-yl]methyl ketone
3,3-bis(Hydroxymethyl)butanone (29.0 g), p-dimethylaminobenzaldehyde (29.8 g), toluene-p-sulphonic acid (250 mg) and toluene (140 ml) were heated under reflux in a Dean and Stark water trap until the theoretical amount of water had separated. The solution was concentrated in vacuo, the crude residue was washed with 8% aqueous sodium bicarbonate solution (100 ml) and crystallised from petroleum ether (b.p. 80°-100°)/ethyl acetate as a crystalline solid m.p.118°-120° (Cis-trans 96:4).

reactant | 3,3-bis(Hydroxymethyl)butanone | 29.0 g | OCC(C(C)=O)(C)CO | C6H12O3
reactant | p-dimethylaminobenzaldehyde | 29.8 g | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
reactant | toluene-p-sulphonic acid | 250 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | toluene | 140 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | [2-(p-Dimethylaminophenyl)-5-methyl-1,3-dioxan-5-yl]methyl ketone | CN(C1=CC=C(C=C1)C1OCC(CO1)(C)C(=O)C)C | C15H21NO3
